US06117897
Preparation of [(S)-1-[(S)-2-[(trans-4-aminocyclohexylmethyl)carbamoyl]pyrrolidine-1-carbonyl]-2-isopropylthio-2-methylpropyl]carbamic acid propyl ester hydrochloride
0.49 g of [(S)-1-[(S)-2-[(trans-4-aminocyclohexylmethyl)carbamoyl]pyrrolidine-1-carbonyl]2-isopropylthio-2-methylpropyl]carbamic acid propyl ester obtained in Example 1was dissolved in 5 ml of ethanol, and 1.0 ml of 1N hydrochloric acid was added thereto, followed by stirring at room temperature for 30 minutes. The solvent was distilled off under reduced pressure, and then, 5 ml of toluene was added thereto and then distilled under reduced pressure. The residue was dried under a reduced pressure of about 10 mmHg at room temperature to obtain 0.54 g of a white amorphous substance.

reactant | [(S)-1-[(S)-2-[(trans-4-aminocyclohexylmethyl)carbamoyl]pyrrolidine-1-carbonyl]2-isopropylthio-2-methylpropyl]carbamic acid propyl ester | 0.49 g | C(CC)OC(N[C@H](C(C)(C)SC(C)C)C(=O)N1[C@@H](CCC1)C(NC[C@@H]1CC[C@H](CC1)N)=O)=O | C24H44N4O4S
reactant | hydrochloric acid | 1N, 1.0 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | [(S)-1-[(S)-2-[(trans-4-aminocyclohexylmethyl)carbamoyl]pyrrolidine-1-carbonyl]-2-isopropylthio-2-methylpropyl]carbamic acid propyl ester hydrochloride | Cl.C(CC)OC(N[C@H](C(C)(C)SC(C)C)C(=O)N1[C@@H](CCC1)C(NC[C@@H]1CC[C@H](CC1)N)=O)=O | InChI=1S/C24H44N4O4S.ClH/c1-6-14-32-23(31)27-20(24(4,5)33-16(2)3)22(30)28-13-7-8-19(28)21(29)26-15-17-9-11-18(25)12-10-17;/h16-20H,6-15,25H2,1-5H3,(H,26,29)(H,27,31);1H/t17-,18-,19-,20-;/m0./s1
